US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (50 mg, 0.578 mmol), 1-(α,α,α-trifluoro-m-tolyl)piperazine (0.12 mL, 0.639 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (123 mg, 0.198 mmol) and NaOtBu (176 mg, 1.831 mmol) in DMA (5 mL) was heated at 85° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-2H-phthalazin-1-one (15 mg) as a beige solid, 1H (400 MHz, d6-DMSO) δ: 3.21 (m, 4H), 3.40 (m, 4H), 6.86 (d, 1H), 6.91 (d, 1H), 6.98 (s, 1H), 7.05 (m, 1H), 7.22 (t, 1H), 7.38 (dd, 1H), 7.85 (d, 1H), 12.28 (s, 1H) ppm; m/z (M+1) 408.82.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 50 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 1-(α,α,α-trifluoro-m-tolyl)piperazine | 0.639 mmol, 0.12 mL | FC(C1=CC(=CC=C1)N1CCNCC1)(F)F | C11H13F3N2
reactant | rac-BINAP | 0.198 mmol, 123 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.831 mmol, 176 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-2H-phthalazin-1-one | 15 mg | ClC1=NNC(C2=CC=C(C=C12)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C19H16ClF3N4O
